US06365597B1
Androst-4-ene-3,17-dione is oxidized into 5-oxo-4-nor-3,5-seco-androstane-5,17-dione as in Example 16A (seco-acid). The seco-acid (9.000 g, 31.423 mmol) is slurried with methylammonium chloride (19.5000 g, 288.80 mmol) into acetic acid (75 mL) and heated to reflux under an inert atmosphere. After 3 days, the reaction mixture is allowed to cool to room temperature and diluted with ethyl acetate (EtOAc, 500 mL). The organic solution is washed with water (3×200 mL), saturated aqueous NaHCO3 (2×200 mL) and brine (200 mL), then dried over magnesium sulfate (MgSO4), filtered, concentrated and purified by flash chromatography (1:1:2 EtOAc/CH2Cl2) to afford 4-methyl-4-aza-androst-5-ene-3,17-dione (aza-dione).

reactant | Androst-4-ene-3,17-dione | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)=O | C19H26O2
reactant | methylammonium chloride | 288.80 mmol, 19.5000 g | [Cl-].C[NH3+]
reactant | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 4-methyl-4-aza-androst-5-ene-3,17-dione | CN1C2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C19H27NO2
